US06001849
51b. 7-chloro-2-(1-methyl-2-(S)-pyrrolidinyl)furo[3,2-b]pyridine hydrochloride
A solution of 2-(1-BOC-2-(S)-pyrrolidinyl)-7-chlorofuro[3,2-b]pyridine, from step 51a above, in HCO2H (15.0 mL, 88%) and H2CO (15 mL, 37%) was refluxed for one hour. After cooling to room temperature and the solution was acidified to pH=2.0 with 1 N aqueous HCl and washed with Et2O (150 mL). The aqueous layer was basified with 15% NaOH and extracted with CH2Cl2 (4×400 mL). The combined CH2Cl2 extracts were dried (MgSO4) and concentrated. The crude material was chromatographed (silica gel; CH2Cl2 :MeOH, 95:5) to afford the title compound as a light yellow oil (0.036 g, 15%). The amine was dissolved in Et2O and cooled to 0° C. and a saturated solution of HCl in Et2O was added until precipitation ceased. The solvent was removed and the yellow solid was placed under vacuum to afford the title compound: [α]D≤ +26.24 (c 0.05, H2O); 1H NMR (D2O, 300 MHz) δ 2.28-2.42 (m, 2H), 2.50-2.68 (m, 2H), 2.98 (s, 3H), 3.42 (br s, 1H), 3.62 (br s, 1H), 5.00 (m, 1H), 7.38 (s, 1H), 7.59 (d, J=6.0 Hz, 1H), 8.44 (d, J=6.0 Hz, 1H); MS (DCI/NH3) m/z: 237 (M+H)+ ; Anal. Calcd for C12H13N2O.1.2 HCl.0.10H2O.0.20Et2O: C, 51.75; H, 5.56; N, 9.43. Found C, 51.40; H, 5.49; N,9.03.

reactant | 2-(1-BOC-2-(S)-pyrrolidinyl)-7-chlorofuro[3,2-b]pyridine | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)C1=CC2=NC=CC(=C2O1)Cl | C16H19ClN2O3
reactant | HCl | 1 N | Cl | ClH
solvent | HCO2H | 15.0 mL | C(=O)O | CH2O2
product | 7-chloro-2-(1-methyl-2-(S)-pyrrolidinyl)furo[3,2-b]pyridine hydrochloride | 0.036 g, 15% | Cl.ClC1=C2C(=NC=C1)C=C(O2)[C@H]2N(CCC2)C | InChI=1S/C12H13ClN2O.ClH/c1-15-6-2-3-10(15)11-7-9-12(16-11)8(13)4-5-14-9;/h4-5,7,10H,2-3,6H2,1H3;1H/t10-;/m0./s1
